US07732460B2
Preparation (B) 5,6-Dihydrofuro[2,3-c]pyridazine-3-carbaldehyde
A mixture of 3-ethenyl-5,6-dihydrofuro[2,3-c]pyridazine (110 mg, 0.74 mmol), 4% osmium tetroxide in water (0.66 ml), sodium periodate (367 mg), 1,4-dioxane (6.6 ml) and water (1.3 ml) was stirred for 3 hours. The mixture was evaporated and the residue treated with chloroform and added to the top of a column. Elution with ethyl acetate afforded the product (23 mg).

reactant | 3-ethenyl-5,6-dihydrofuro[2,3-c]pyridazine | 0.74 mmol, 110 mg | C(=C)C1=CC2=C(N=N1)OCC2 | C8H8N2O
reactant | sodium periodate | 367 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 1,4-dioxane | 6.6 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.66 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | water | 1.3 ml | O | H2O
product | 5,6-Dihydrofuro[2,3-c]pyridazine-3-carbaldehyde | 23 mg | N1=NC(=CC2=C1OCC2)C=O | C7H6N2O2
